US09371319B2
Preparation 150: tert-Butyl 6-bromo-2-(1-(2,2,2-trifluoroethyl)-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine-1-carboxylate
6-Bromo-1-(methylsulfonyl)-2-(1-(2,2,2-trifluoroethyl)-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine (Preparation 149, 300 mg, 0.71 mmole) was stirred in methanol (3 mL) and 1M sodium hydroxide solution (aqueous, 0.8 mL, 0.8 mmole) was added and the reaction stirred at room temperature for 2 hours 20 minutes. The methanol was evaporated and the residue taken up in ethyl acetate (20 mL), washed with water (4 mL) and with brine; then dried (MgSO4) and evaporated. The residue was dissolved in ethyl acetate (3 mL) and triethylamine (0.15 mL, 017 mg, 1.06 mmole) was added followed by a crystal of DMAP and di-t-butyl dicarbonate (240 mg, 1.1 mmole). The reaction was stirred at room temperature for 2 hours and then evaporated. The residue was purified using preparative TLC eluting with 4:1 dichloromethane:ethyl acetate to afford the title compound (251 mg, 79%). 1H-NMR (CDCl3, 500 MHz): δ 1.54 (s, 9H), 4.78 (q, J=8.51 Hz, 2H), 6.61 (d, J=0.63 Hz, 1H), 7.72 (s, 1H), 7.74 (s, 1H), 8.24 (s, 1H), 8.59 (d, J=0.63 Hz, 1H). 19F-NMR (CDCl3, 470.385 MHz): −71.59.

reactant | 6-Bromo-1-(methylsulfonyl)-2-(1-(2,2,2-trifluoroethyl)-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine | 0.71 mmole, 300 mg | BrC1=CC2=C(C=N1)C=C(N2S(=O)(=O)C)C=2C=NN(C2)CC(F)(F)F | C13H10BrF3N4O2S
reactant | sodium hydroxide | 0.8 mmole, 1M, 0.8 mL | [OH-].[Na+]
reactant | triethylamine | 1.06 mmole, 0.15 mL | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 1.1 mmole, 240 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 3 mL | CO | CH4O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-Butyl 6-bromo-2-(1-(2,2,2-trifluoroethyl)-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine-1-carboxylate | 251 mg, 79% | BrC1=CC2=C(C=N1)C=C(N2C(=O)OC(C)(C)C)C=2C=NN(C2)CC(F)(F)F | C17H16BrF3N4O2
